US04550105
To a solution of 0.273 g of sodium (3R,4S)-3-[2-(2-chloroacetamidothiazol-4-yl)-2-methoxyiminoacetamido]-4-methoxycarbonylmethylthio-2-oxoazetidine-1-sulfonate in 6 ml of a buffer solution (pH 6.86) is added 67.8 mg of sodium monomethyldithiocarbamate under ice-cooling. After stirring for 2 hours at room temperature, the reaction mixture is purified in the same procedure as in Example 3B to give 0.120 g of sodium (3R,4S)-3-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-4-methoxycarbonylmethylthio-2-oxoazetidine-1-sulfonate.

reactant | sodium (3R,4S)-3-[2-(2-chloroacetamidothiazol-4-yl)-2-methoxyiminoacetamido]-4-methoxycarbonylmethylthio-2-oxoazetidine-1-sulfonate | 0.273 g | ClCC(=O)NC=1SC=C(N1)C(C(=O)N[C@@H]1C(N([C@H]1SCC(=O)OC)S(=O)(=O)[O-])=O)=NOC.[Na+]
reactant | sodium monomethyldithiocarbamate | 67.8 mg | CSC(N)=S.[Na]
product | sodium (3R,4S)-3-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-4-methoxycarbonylmethylthio-2-oxoazetidine-1-sulfonate | 0.120 g | NC=1SC=C(N1)C(C(=O)N[C@@H]1C(N([C@H]1SCC(=O)OC)S(=O)(=O)[O-])=O)=NOC.[Na+] | InChI=1S/C12H15N5O8S3.Na/c1-24-6(18)4-26-11-8(10(20)17(11)28(21,22)23)15-9(19)7(16-25-2)5-3-27-12(13)14-5;/h3,8,11H,4H2,1-2H3,(H2,13,14)(H,15,19)(H,21,22,23);/q;+1/p-1/t8-,11+;/m1./s1
